US05596002
(R)-N2 -(7-Chloro-quinolin-4-yl)-N1,N1 -dimethyl-propane-1,2-diamine
Analogously to Example 33c, starting from (R)-2-amino-1-chloro-N-(7-chloro-quinolin-4-yl)-propane hydrochloride there is prepared (R)-N1 -(7-chloro-quinolin-4-yl)-N2,N2 -dimethyl-propane-1,2-diamine hydrochloride; white crystals; m.p.: >260° C., [a]D =-132° (c=1.0, MeOH).

reactant | (R)-N1 -(7-chloro-quinolin-4-yl)-N2,N2 -dimethyl-propane-1,2-diamine hydrochloride | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC[C@@H](C)N(C)C
reactant | MeOH | CO | CH4O
product | (R)-N2 -(7-Chloro-quinolin-4-yl)-N1,N1 -dimethyl-propane-1,2-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H](CN(C)C)C | C14H18ClN3
